US08895588B2
1-{5-[(4-fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}-N-methylmethanamine hydrochloride
tert-Butyl({5-[(4-fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate (132 mg) was dissolved in ethyl acetate (2 ml) and 2-propanol (1 mL), and 4 mol/L hydrogen chloride-ethyl acetate solution (3 mL) was added. After stirring at room temperature for 2 hr, the reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from a mixed solvent of ethanol and ethyl acetate to give the title compound as colorless crystals (yield 83 mg, yield 73%). melting point 211-214° C.

reactant | tert-Butyl({5-[(4-fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate | 132 mg | C(C)(C)(C)OC(N(C)CC1=NN(C(=C1)S(=O)(=O)C1=CC=C(C=C1)F)C=1C(=NC=CC1)F)=O | C21H22F2N4O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 3 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 1 mL | CC(C)O | C3H8O
product | 1-{5-[(4-fluorophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}-N-methylmethanamine hydrochloride | yield 83 mg, yield 73% | Cl.FC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NN1C=1C(=NC=CC1)F)CNC | InChI=1S/C16H14F2N4O2S.ClH/c1-19-10-12-9-15(22(21-12)14-3-2-8-20-16(14)18)25(23,24)13-6-4-11(17)5-7-13;/h2-9,19H,10H2,1H3;1H
